US08193378B2
To a solution of KOH (358 mg) in MeOH (30 mL) was added {4-[2,4-bis(trifluoromethyl)phenyl]but-1-yn-1-yl}(trimethyl)silane (1.8 g), followed by stirring at room temperature for 18 hours. The reaction liquid was neutralized with 1 M hydrochloric acid and extracted with ether. The organic layer was washed with brine, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:EtOAc=100:0) to obtain 1-but-3-yn-1-yl-2,4-bis(trifluoromethyl)benzene (426 mg) as a colorless liquid.

reactant | KOH | 358 mg | [OH-].[K+]
reactant | {4-[2,4-bis(trifluoromethyl)phenyl]but-1-yn-1-yl}(trimethyl)silane | 1.8 g | FC(C1=C(C=CC(=C1)C(F)(F)F)CCC#C[Si](C)(C)C)(F)F | C15H16F6Si
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 1-but-3-yn-1-yl-2,4-bis(trifluoromethyl)benzene | 426 mg | C(CC#C)C1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F | C12H8F6
